US07282588B2
N-(4-{4-[2-formyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-ethyl-1H-pyrazol-3-yl}phenyl)-N′-phenylurea
Following the procedure described in Intermediate 100 with N-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N′-phenylurea and 1-(phenylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde provided the title compound. ESMS [M+H]+: 591.4

reactant | N-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N′-phenylurea | BrC=1C(=NN(C1)CC)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C18H17BrN4O
reactant | 1-(phenylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2B2OC(C(O2)(C)C)(C)C)C=O | C20H21BN2O5S
product | N-(4-{4-[2-formyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-ethyl-1H-pyrazol-3-yl}phenyl)-N′-phenylurea | C(=O)C1=CC=2C(=NC=CC2C=2C(=NN(C2)CC)C2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2)N1S(=O)(=O)C1=CC=CC=C1 | C32H26N6O4S
